US07491710B2
A solution of 39 mg of the preceding mixture containing mainly 3-{1-tert-butoxycarbonyl-5-[2-(4-tert-butoxycarbonylpiperazin-1-yl)ethoxy]-1H-indol-2-yl}-5-(hydroxymethylphosphinoyloxy)indazole-1-carboxylic acid tert-butyl ester in 1 ml of dichloromethane and 200 μl of trifluoroacetic acid is stirred at 20° C. for 4 hours and the reaction mixture is then evaporated under reduced pressure. The crude compound obtained is purified by preparative LCMS, and the fractions containing the compound of molecular mass 455 are combined and evaporated under reduced pressure to yield 4 mg of methylphosphonic acid mono-{3-[5-(2-piperazin-1-ylethoxy)-1H-indol-2-yl]-1H-indazol-5-yl}ester, which is characterized.

reactant | 3-{1-tert-butoxycarbonyl-5-[2-(4-tert-butoxycarbonylpiperazin-1-yl)ethoxy]-1H-indol-2-yl}-5-(hydroxymethylphosphinoyloxy)indazole-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1N=C(C2=CC(=CC=C12)OP(=O)CO)C=1N(C2=CC=C(C=C2C1)OCCN1CCN(CC1)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C37H50N5O10P
reactant | trifluoroacetic acid | 200 μl | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
product | methylphosphonic acid mono-{3-[5-(2-piperazin-1-ylethoxy)-1H-indol-2-yl]-1H-indazol-5-yl}ester | 4 mg | N1(CCNCC1)CCOC=1C=C2C=C(NC2=CC1)C1=NNC2=CC=C(C=C12)OP(O)(=O)C | C22H26N5O4P
